US05391798
700 g (4.12 mol) of o-phenylphenol and 4.1 g of zinc chloride are heated to 180° C. with stirring. 692 g (5.03 mol) of phosphorus trichloride are then added dropwise over 12 hours. Reflux is maintained for a further 5 hours; at the end no further hydrogen chloride is evolved. The excess phosphorus trichloride is distilled off at 120° C. in vacuo, the reaction product is cooled to 100° C. and 966 g of toluene are added. Cooling to room temperature gives a 50% strength solution of 6-chloro-(6H)-dibenz[c,e][1,2]oxaphosphorin in toluene. The 31P-NMR spectrum indicates a purity of 95.5%.

reactant | o-phenylphenol | 4.12 mol, 700 g | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | phosphorus trichloride | 5.03 mol, 692 g | P(Cl)(Cl)Cl | Cl3P
reactant | hydrogen chloride | Cl | ClH
catalyst | zinc chloride | 4.1 g | [Cl-].[Zn+2].[Cl-]
product | 6-chloro-(6H)-dibenz[c,e][1,2]oxaphosphorin | ClP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C12H8ClOP
